US04034098
3-[2-(4-p-Toluenesulphonamido-1-piperidyl)ethyl]indole
Using an analogous procedure to Example 1 3[2-(4-amino-1-piperidyl)ethyl]indole monohydrate may be reacted with p-toluenesulphonyl chloride to give the title compound.

reactant | 3[2-(4-amino-1-piperidyl)ethyl]indole monohydrate | O.NC1CCN(CC1)CCC1=CNC2=CC=CC=C12
reactant | p-toluenesulphonyl chloride | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
product | 3-[2-(4-p-Toluenesulphonamido-1-piperidyl)ethyl]indole | C1(=CC=C(C=C1)S(=O)(=O)NC1CCN(CC1)CCC1=CNC2=CC=CC=C12)C | C22H27N3O2S
